US09085583B2
Step 2: Methyl 3-(1-(3-(((4-methoxy-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)carbamoyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl)benzoate
To a solution of 3-(1-(3-(((4-methoxy-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)carbamoyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl)benzoic acid (20 mg, 0.042 mmol) in MeOH (6 mL) was added 2-3 drops of sulfuric acid. The mixture was stirred at 70° C. for 1 hour. The solvent was evaporated. The residue was dissolved in water (3 mL), quenched by saturated NaHCO, solution, extracted with EA (10×3). The combined organic phase was dried by sodium sulfate, and then filtered. The filtrate was concentrated to give the title compound (20 mg, yield: 97%).

reactant | 3-(1-(3-(((4-methoxy-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)carbamoyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl)benzoic acid | 0.042 mmol, 20 mg | COC1=C(C(NC(=C1)C)=O)CNC(=O)C1=C(N(C2=NC=CC=C21)C(C)C=2C=C(C(=O)O)C=CC2)C | C26H26N4O5
reactant | MeOH | 6 mL | CO | CH4O
catalyst | sulfuric acid | 2-3 drops | S(O)(O)(=O)=O | H2O4S
product | Methyl 3-(1-(3-(((4-methoxy-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)carbamoyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl)benzoate | 20 mg, yield: 97% | COC1=C(C(NC(=C1)C)=O)CNC(=O)C1=C(N(C2=NC=CC=C21)C(C)C=2C=C(C(=O)OC)C=CC2)C | C27H28N4O5
